US08476300B2
5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(thiophen-2-yl)naphthalen-2-ol hydrochloride
Dissolve 1-(2-(4-(6-methoxy-2-(thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine (100 mg, 0.22 mmol) in dichloromethane and treat with HCl (1M in ether; 220 μL, 0.22 mmol). Concentrate in vacuo to give a yellow solid and add dichloromethane (7.3 mL). Cool the resulting solution to 0° C. and add boron tribromide (1M in dichloromethane; 870 μL, 0.87 mmol). Stir the resulting mixture at 0° C. for 2.5 hours. Quench the mixture with saturated aqueous sodium bicarbonate and allow to warm to room temperature. Separate the layers and extract the aqueous layer with 20% methanol in dichloromethane (10 mL×3). Dry combined organic layers (Na2SO4), filter and concentrate in vacuo to give a yellow residue. Purify the residue by silica gel flash chromatography to give an off-white foam. Suspend the foam in ACN and add HCL (5M in water; 1 mL). Freeze the resulting solution and lyophilize to obtain the title compound (50.5 mg, 0.12 mmol): mass spectrum (m/z): 446 (M+1-HCl).

reactant | 1-(2-(4-(6-methoxy-2-(thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.22 mmol, 100 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C=1SC=CC1 | C28H29NO3S
reactant | HCl | 0.22 mmol, 1M, 220 μL | Cl | ClH
reactant | boron tribromide | 0.87 mmol, 1M, 870 μL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ACN | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | dichloromethane | 7.3 mL | ClCCl | CH2Cl2
product | 5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(thiophen-2-yl)naphthalen-2-ol hydrochloride | 0.12 mmol, 50.5 mg | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C3C=CC(=CC3=CC=C2C=2SC=CC2)O)C=C1 | InChI=1S/C27H27NO3S.ClH/c29-21-7-13-24-20(19-21)6-12-25(26-5-4-18-32-26)27(24)31-23-10-8-22(9-11-23)30-17-16-28-14-2-1-3-15-28;/h4-13,18-19,29H,1-3,14-17H2;1H
